US09024032B2
A mixture of 4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one (5.6 g, 12.9 mmol), bis(pinacolato)diboron (4.91 g, 19.3 mmol), KOAc (2.53 g, 25.8 mmol), and Pd(dppf)Cl2 (0.6 g) in 1,4-dioxane (100 mL) was heated to 100° C. overnight. After cooling to room temperature, the reaction mixture was concentrated to give a residue which was purified by Prep-HPLC to give {3-[(4-methoxybenzyl)oxy]-4-oxo-4H-1,2′-bipyridin-4′-yl}boronic acid. 1H NMR (DMSO, 400 MHz) δ 8.61(s, 1H), 8.51 (d, J=4.4 Hz, 1H), 8.437 (dd, J=8.0, 2.0 Hz, 1H), 8.21 (d, J=2.4 Hz, 1H), 8.00 (s, 1H), 7.65 (d, J=4.8 Hz, 1H), 7.36 (d, J=8.4 Hz, 2H), 6.92 (d, J=8.4 Hz, 2H), 6.34(d, J=7.6 Hz, 1H), 4.98 (s, 2H), 3.72 (s, 3H). MS (M+H)+ 353.2.

reactant | 4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one | 12.9 mmol, 5.6 g | IC1=CC(=NC=C1)N1C=C(C(C=C1)=O)OCC1=CC=C(C=C1)OC | C18H15IN2O3
reactant | bis(pinacolato)diboron | 19.3 mmol, 4.91 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 25.8 mmol, 2.53 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.6 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {3-[(4-methoxybenzyl)oxy]-4-oxo-4H-1,2′-bipyridin-4′-yl}boronic acid | COC1=CC=C(COC2=CN(C=CC2=O)C2=NC=CC(=C2)B(O)O)C=C1 | C18H17BN2O5
